US05439917
2-Hydroxymethyl-3-methyl-7-(2-phenylethyl)pyrrolo[2,3-b]pyridine hydrobromide
A solution of 0.11 g (0.68 mmol) 2-hydroxymethyl-3-methylpyrrolo [2,3-b]pyridine and 0.13 g (7 mmol) (2-bromoethyl)benzene in 5 ml acetonitril was refluxed for 24 h. The solvent was evaporated. Chromatography on silica gel eluting with methylene chloride and methanol (10:1) gave the desired product. (0.03 g 13%).

reactant | 2-hydroxymethyl-3-methylpyrrolo [2,3-b]pyridine | 0.68 mmol, 0.11 g | OCC1=C(C=2C(=NC=CC2)N1)C | C9H10N2O
reactant | (2-bromoethyl)benzene | 7 mmol, 0.13 g | BrCCC1=CC=CC=C1 | C8H9Br
solvent | acetonitril | 5 ml | C(C)#N | C2H3N
product | 2-Hydroxymethyl-3-methyl-7-(2-phenylethyl)pyrrolo[2,3-b]pyridine hydrobromide | Br.OCC1=C(C=2C(N(C=CC2)CCC2=CC=CC=C2)=N1)C | InChI=1S/C17H18N2O.BrH/c1-13-15-8-5-10-19(17(15)18-16(13)12-20)11-9-14-6-3-2-4-7-14;/h2-8,10,20H,9,11-12H2,1H3;1H
